US07728025B2
(Step 11) Production of 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
30 mg of 5-(4-bromo-phenyl)-oxazole, 56 mg of cesium carbonate and 15 mg of copper(II) oxide were added to a pyridine (1 ml) solution of 29 mg of 1-(2-(6-hydroxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)pyrrolidin-1-yl)-ethanone, and the reaction liquid was stirred overnight in a sealed tube at 120° C. After cooled, aqueous saturated ammonium chloride solution and saturated saline were added in order to the reaction liquid, and this was extracted with ethyl acetate and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=12/1) to obtain the entitled compound as a yellow oily substance.

reactant | 5-(4-bromo-phenyl)-oxazole | 30 mg | BrC1=CC=C(C=C1)C1=CN=CO1 | C9H6BrNO
reactant | cesium carbonate | 56 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-(6-hydroxy-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)pyrrolidin-1-yl)-ethanone | 29 mg | OC=1C(=CC2=C(N=C(N2COCC[Si](C)(C)C)C2=NC=CC=C2)C1)C1N(CCC1)C(C)=O | C24H32N4O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper(II) oxide | 15 mg | [Cu]=O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-(6-(4-oxazol-5-yl-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | O1C=NC=C1C1=CC=C(OC=2C(=CC3=C(N=C(N3COCC[Si](C)(C)C)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=C1 | C33H37N5O4Si
